US05672709
3-Chloro-4-butylsulfonyl-1,2,5-thiadiazole
A solution of Oxone™ (12 g, 0.0195 mol) in H2O (60 mL) was vigorous stirred as 3-chloro-4-butylthio-1,2,5-thiadiazole (2.1 g, 0.01 mol) in THF (30 mL) was added dropwise. After 24 h, the THF was evaporated and the residue extracted with ether (3×). Extracts were washed with H2O, dried, and solvent evaporated to give a clear liquid. Radial chromatography eluting with 30% EtOAc/hexane gave a colorless liquid (2.3 g). (Compound 2).

reactant | Oxone | OOS(=O)[O-].[K+]
reactant | 3-chloro-4-butylthio-1,2,5-thiadiazole | 0.01 mol, 2.1 g | ClC1=NSN=C1SCCCC | C6H9ClN2S2
reactant | H2O | 60 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-Chloro-4-butylsulfonyl-1,2,5-thiadiazole | 2.3 g | ClC1=NSN=C1S(=O)(=O)CCCC | C6H9ClN2O2S2
